US04070481
A solution of 0.95 parts of 5-chloro-2-dodecyl-3-hydroxy-1,4-naphthoquinone in 20 parts of anhydrous tetrahydrofuran was added under nitrogen to a mixture of 0.0635 parts of dispersed sodium hydride in 40 parts of tetrahydrofuran with stirring at room temperature. After 45 minutes of stirring, a solution of 0.275 parts of acetyl chloride in 30 parts of tetrahydrofuran was added and the mixture stirred for 5 hours. The tetrahydrofuran was stripped under reduced pressure and the residue taken up in methylene chloride and then washed with water, 10% hydrochloric acid, four more times with water, dried over sodium sulfate and stripped. The resulting yellow solid was purified by column chromatography on silica gel using 1-chlorobutane as eluent. Solvent removal gave 0.9 parts of 3-acetoxy-5-chloro-2-dodecyl-1,4-naphthoquinone, m.p. 57°-59° C.

reactant | 5-chloro-2-dodecyl-3-hydroxy-1,4-naphthoquinone | ClC1=C2C(C(=C(C(C2=CC=C1)=O)CCCCCCCCCCCC)O)=O | C22H29ClO3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium hydride | [H-].[Na+]
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-acetoxy-5-chloro-2-dodecyl-1,4-naphthoquinone | C(C)(=O)OC1=C(C(C2=CC=CC(=C2C1=O)Cl)=O)CCCCCCCCCCCC | C24H31ClO4
